US05869735
Preparation of ethyl 2-(2,4-di-tert-butylphenoxy)caproate
206 g (1 mol) of 2,4-di-tert-butylphenol were melted and heated to 140° C. under nitrogen. 234 g (1.03 mol) of a 30% strength NaOEt solution in EtOH and 245 g (1.1 mol) of ethyl 2-bromocaproate were metered in simultaneously in the course of 1 hour. During the addition, EtOH was distilled off. After the addition, the reaction was ended. The mixture was cooled to 90° C. and 250 ml of water were added. After separation of the phases and washing with 200 ml of water, 347 g of a viscous yellow oil of the following composition (0.3% of ethyl bromocaproate, 0.5% of residual phenol and 98% of ethyl 2-(2,4-di-tert-butylphenoxy)caproate, remained. This corresponds to a yield of 98% of theory, based on the phenol employed.

reactant | 2,4-di-tert-butylphenol | 1 mol, 206 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | NaOEt | CC[O-].[Na+]
reactant | ethyl 2-bromocaproate | 1.1 mol, 245 g | BrC(C(=O)OCC)CCCC | C8H15BrO2
solvent | EtOH | CCO | C2H6O
product | ethyl 2-(2,4-di-tert-butylphenoxy)caproate | yield of 98% | C(C)(C)(C)C1=C(OC(C(=O)OCC)CCCC)C=CC(=C1)C(C)(C)C | C22H36O3
